US04066671
Dimethylaminoacetaldehyde diethyl acetal (29 g, 0.18 mole) was added dropwise to a stirred mixture of 40 g (0.15 mole) of chloromethyl 5-(4-nitrophenyl)-2-furyl ketone in 750 ml of absolute ethanol at 30° over 15 minutes. The mixture was heated under reflux for 22 hrs and was filtered hot to remove a black insoluble material. The filtrate was cooled in ice, and the brown solid was filtered and discarded. The filtrate was diluted with 1.5 liters of anhydrous ether, and the solid which was deposited was collected by filtration to give 45 g (69%) of (2,2-diethoxyethyl)dimethyl[5-(4-nitrophenyl)-2-furoylmethyl] ammonium chloride hemihydrate. Two recrystallizations from CH3CN gave an analytical sample, m.p. 113°-118°.

reactant | Dimethylaminoacetaldehyde diethyl acetal | 0.18 mole, 29 g | C(C)OC(CN(C)C)OCC | C8H19NO2
reactant | chloromethyl 5-(4-nitrophenyl)-2-furyl ketone | 0.15 mole, 40 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(=O)CCl | C12H8ClNO4
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | (2,2-diethoxyethyl)dimethyl[5-(4-nitrophenyl)-2-furoylmethyl] ammonium chloride hemihydrate | 45 g, 69% | O.[Cl-].C(C)OC(C[N+](CC(=O)C=1OC(=CC1)C1=CC=C(C=C1)[N+](=O)[O-])(C)C)OCC.C(C)OC(C[N+](C)(C)CC(=O)C=1OC(=CC1)C1=CC=C(C=C1)[N+](=O)[O-])OCC.[Cl-] | InChI=1S/2C20H27N2O6.2ClH.H2O/c2*1-5-26-20(27-6-2)14-22(3,4)13-17(23)19-12-11-18(28-19)15-7-9-16(10-8-15)21(24)25;;;/h2*7-12,20H,5-6,13-14H2,1-4H3;2*1H;1H2/q2*+1;;;/p-2
